US03984465
By following the procedure described in Example 5, Step A, using as the reactants 2,3-dichloroanisole (100 g., 0.565 mole), 2-methylbutyryl chloride (.75 g., 0.62 mole), aluminum chloride (84 g., 0.62 mole) and methylene chloride (400 ml.), there is obtained 2',3'-dichloro-4'-methoxy-2-methylbutyrophenone.

reactant | 2,3-dichloroanisole | 0.565 mole, 100 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | 2-methylbutyryl chloride | 0.62 mole, .75 g | CC(C(=O)Cl)CC | C5H9ClO
reactant | aluminum chloride | 0.62 mole, 84 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 2',3'-dichloro-4'-methoxy-2-methylbutyrophenone | ClC1=C(C=CC(=C1Cl)OC)C(C(CC)C)=O | C12H14Cl2O2
